US08614213B2
Step 4: Toluene-4-sulfonic acid 4-benzylamino-3-methyl-cyclohexylmethyl ester
(4-Benzylamino-3-methyl-cyclohexyl)-methanol (0.1 g, 3.00 mmol) in DCM (30 mL) and pyridine (3 mL) is treated with TsCl (0.86 g, 4.50 mmol) and the resulting mixture is stirred at RT overnight. The reaction mixture is partitioned between DCM and water and the organic portion is separated, dried (MgSO4) and concentrated in vacuo. Purification by chromatography on silica eluting with iso-hexane:EtOAc (1:2 increasing to 1:4) affords the title compound. 1H NMR (400 MHz, DMSO-d6) δ 7.78 (2H, d), 7.50 (2H, d), 7.30 (4H, m), 7.20 (1H, m), 3.80 (2H, d), 3.63 (2H, q), 2.41 (4H, m), 2.01 (1H, m), 1.72 (2H, m), 1.58 (1H, m), 1.49 (2H, m), 1.20 (1H, m), 1.02 (1H, m), 0.85 (1H, m), 0.81 (3H, d).

reactant | (4-Benzylamino-3-methyl-cyclohexyl)-methanol | 3.00 mmol, 0.1 g | C(C1=CC=CC=C1)NC1C(CC(CC1)CO)C | C15H23NO
reactant | TsCl | 4.50 mmol, 0.86 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | Toluene-4-sulfonic acid 4-benzylamino-3-methyl-cyclohexylmethyl ester | C(C1=CC=CC=C1)NC1C(CC(CC1)COS(=O)(=O)C1=CC=C(C=C1)C)C | C22H29NO3S
